US09403846B2
Step 1. Synthesis of [1-(2,2-diethoxyethoxyl)but-3-en-1-yl]cyclopropane (C15)
1-Cyclopropylbut-3-en-1-ol (C14, see C. Tahtaoui et al., J. Org. Chem. 2010, 75, 3781-3785) (92%, 8.1 g, 66 mmol) was added to a 0° C. suspension of sodium hydride (60% in mineral oil, 8.25 g, 206 mmol) in tetrahydrofuran (105 mL). The cooling bath was removed and the suspension was stirred until the internal temperature reached 21° C. The reaction mixture was then cooled in an ice bath, and 2-bromo-1,1-diethoxyethane (97%, 18.5 mL, 119 mmol) was added drop-wise at a rate that maintained the internal temperature below 5° C. After warming to room temperature, the reaction mixture was heated to 58° C. for 27 hours. Sodium hydride (60% in mineral oil, 3.3 g, 83 mmol) and 2-bromo-1,1-diethoxyethane (97%, 10 mL, 64 mmol) were added again, and the reaction mixture was heated at mild reflux for 14 hours. It was then cooled to 0° C., slowly quenched with water (100 mL) and extracted with diethyl ether (3×200 mL). The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo; purification via silica gel chromatography (Gradient: 0% to 10% ethyl acetate in heptane) afforded the product as a colorless oil. Yield: 12.1 g, 53.0 mmol, 80%. 1H NMR (400 MHz, CDCl3) δ 5.87-5.98 (m, 1H), 5.05-5.11 (m, 1H), 5.00-5.04 (m, 1H), 4.61 (t, J=5.3 Hz, 1H), 3.66-3.75 (m, 3H), 3.54-3.62 (m, 2H), 3.47 (dd, J=10.3, 5.5 Hz, 1H), 2.70 (dt, J=8.4, 6.0 Hz, 1H), 2.36-2.41 (m, 2H), 1.22 (t, J=7.0 Hz, 3H), 1.22 (t, J=7.0 Hz, 3H), 0.80-0.90 (m, 1H), 0.54-0.62 (m, 1H), 0.35-0.50 (m, 2H), 0.07-0.14 (m, 1H).

reactant | 1-Cyclopropylbut-3-en-1-ol | 66 mmol, 8.1 g | C1(CC1)C(CC=C)O | C7H12O
reactant | sodium hydride | 206 mmol, 8.25 g | [H-].[Na+]
reactant | 2-bromo-1,1-diethoxyethane | 119 mmol, 18.5 mL | BrCC(OCC)OCC | C6H13BrO2
reactant | Sodium hydride | 83 mmol, 3.3 g | [H-].[Na+]
reactant | 2-bromo-1,1-diethoxyethane | 64 mmol, 10 mL | BrCC(OCC)OCC | C6H13BrO2
solvent | tetrahydrofuran | 105 mL | O1CCCC1 | C4H8O
product | [1-(2,2-diethoxyethoxyl)but-3-en-1-yl]cyclopropane | C(C)OC(COC(CC=C)C1CC1)OCC | C13H24O3
